### ISSUE TITLE
grind fails when missing simp <-

### ISSUE THREAD

**Issue by Pat-Lafon** [leanprover/lean4#12242]
I've been using grind a fair bit for simple theorems and I've found a minimal example where grind doesn't trivially handle the meta variable created. This occurs on the live.lean-lang.org nightly.

```lean
theorem grind_mvar_fail_2 (a res : Int) :
    ∃ x : Int,
      (a = x) →
      (x = res) →
      (x = res) := by
  refine ⟨?_, ?_⟩
  rotate_left
  intro h h2
  /- simp only [← h] at *  -/ -- uncommenting this line causes grind to succeed
  grind
  repeat constructor
```
